US07951824B2
4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (4-chloro-pyrimidin-2-yl)-amide
The title compound, was prepared from 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 4-Chloro-pyrimidin-2-ylamine instead of 3-chloroaniline to yield the final compound as a light brown solid, MS (ISP): m/e=361.1, 363.2 (M+H)+.

reactant | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C15H13F2NO2
reactant | 4-Chloro-pyrimidin-2-ylamine | ClC1=NC(=NC=C1)N | C4H4ClN3
product | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (4-chloro-pyrimidin-2-yl)-amide | ClC1=NC(=NC=C1)NC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C17H11ClF2N4O
